US06313162B1
(a) Methyl 2-hydroxy-4-{3-hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoate
In a similar manner to Example 1(d), by reaction of 6.7 g (17.3 mmol) of α-ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol with 4.8 g (17.3 mmol) of methyl 2-hydroxy-4-iodobenzoate, 8.5 g (91%) of the expected ester are obtained in the form of a yellow oil.

reactant | α-ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol | 17.3 mmol, 6.7 g | C(#C)C(O)C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C | C23H38O3Si
reactant | methyl 2-hydroxy-4-iodobenzoate | 17.3 mmol, 4.8 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
product | Methyl 2-hydroxy-4-{3-hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C)O | C31H44O6Si
